Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
thoracentesis, 800 cc removed ___

 
History of Present Illness:
Mr. ___ ___ year old man with
history of CAD and chronic R pleural effusion s/p multiple
thoracenteses, also with hx of hemorrhagic CVA who presents via
___ for management of a R pleural effusion and episode 
of
altered mental status at home.

Patient presented to ___ with report of AMS this 
morning.
The ED presentation to ___ states: "Yesterday, the
patient was asymptomatic, tolerating regular meals as
usual...This morning, the patient's son checked on him and noted
him to be sleeping. Later in the morning, around 9 AM, a care
provider came to see him, and noted him to be difficult to
arouse. This was identified as a mental status change, and
arrangements are made for transport to the hospital. No recent
trauma or injuries reported. No fevers or chills." 

While at ___, he had basic labs including WBC 3.5 and UA
that was negative. EKG was read as: SR with occasional
ventricular premature complexes and LVH with repolarization
abnormality. FluA/B swab were negative. CXR showed Large right
pleural effusion. CT Head without contrast showed no acute
abnormality. Of note, the formal CT read did state, "There is
encephalomalacia within the left cerebellar hemisphere and
occipital lobe with associated ex vacuo  dilatation of the
occipital horn, posterior horn, and temporal horns of the left
lateral ventricle compatible with an old left superior 
cerebellar
and left posterior cerebral artery territory infarct. This
finding appears similar to the prior study." 

Plan at ___ was for admission there for right sided
pleural effusion, congestive heart failure with peripheral edema
and altered mental status; he was then transferred to ___.

 
Past Medical History:
Hx of Prostate Cancer
CAD
Atrial Fibrillation
Hypertension,
Hx of CVA
Hx of Gallstones
s/p cholecystectomy
 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION EXAM:
==============
VS: 97.5 153 / 87 63 2097% on 2L 
GENERAL: elderly gentleman in NAD, lying up in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera 
NECK: supple, no LAD, no JVD  
HEART: irregular, no murmurs appreciated
LUNGS: L with good air movement and no adventitious sounds, R
side with no significant air movement audible
ABDOMEN: ___ in all quadrants, no
rebound/guarding
EXTREMITIES: 2+ edema to the ___
NEURO: A+O X 2.3 (self, location - hospital, month - ___,
unable to remember city but states "I know I'm not in ___
anymore" or year), pleasant, conversant and alert, strength
asymmetric (LLE ___, RLE ___
SKIN: no significant rashes

DISCHARGE EXAM:
==============
VS: ___ 2339 Temp: 98.3 AdultAxillary BP: 103/61 L Lying 
HR:
69 RR: 20 O2 sat: 93%   
GENERAL: elderly gentleman in NAD, lying up in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera 
NECK: supple, no LAD, no JVD  
HEART: irregular, no murmurs appreciated
LUNGS: L with good air movement and no adventitious sounds, R
side with some air movement in upper lobe, but diminished in
middle and lower lobes.
ABDOMEN: ___ in all quadrants, no
rebound/guarding
EXTREMITIES: 1+ edema to the ___
NEURO: A+O X 2 this AM. Not oriented entirely to place, knew was
in hospital.
SKIN: no significant rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:49PM BLOOD ___ 
___ Plt ___
___ 05:49PM BLOOD ___ ___
___ 05:49PM BLOOD Plt ___
___ 05:25PM BLOOD ___ 
___
___ 07:18AM BLOOD ___

DISCHARGE LABS:
===============
___ 05:25AM BLOOD ___ 
___ Plt ___
___ 05:25AM BLOOD ___ 
___
___ 05:25AM BLOOD ___

PERTINENT IMAGING:
=================
___ (PORTABLE AP)

Modest improvement in aeration of the right upper lobe with 
persistent large
right pleural effusion.  No pneumothorax.

__________________________________________________________
___ 9:36 am PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 7:18 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of CAD and 
chronic R pleural effusion s/p multiple thoracenteses, also with 
hx of hemorrhagic CVA who presents via ___ for 
management of a R pleural effusion and episode of altered mental 
status at home.

#R PLEURAL EFFUSION: The patient has a history of a chronic 
right sided pleural effusion which has been drained twice, once 
at the ___ and once in ___. The fluid was exudative by 
light's criteria in both cases. On further review of the studies 
from the ___, the effusion showed atypical cells consistent 
with malignancy, though no cytology was sent. Interventional 
Pulmonology saw the patient and performed a bedside 
thoracentesis. The fluid was sent for cell counts and cytology. 
Following the procedure, the patient remained stable, was 
breathing comfortably and was saturating well on room air. The 
effusion is likely malignant, however the patient becomes 
agitated with drains and tubes, and has a history of pulling at 
them. Thus, it was thought to be unsafe to implant a ___ in 
this case. The patient was discharged with studies pending. 
These should be followed up by his primary care doctor and on 
follow up with interventional pulmonology. The initial studies 
do show atypical cells, so malignancy is the most likely cause 
at this time.

#ALTERED MENTAL STATUS: The patient was awake, alert and 
relatively ___ and appropriate. His period of AMS may 
have been secondary to recrudescence of stroke symptoms in the 
setting of hypoxemia and respiratory distress. He was discharged 
at his baseline mental status per his family.

#CAD
#HX of CVA: The patient was continued on his home ASA 81mg and 
Metoprolol succinate 50mg 

TRANSITIONAL ISSUES:
====================
- cephalexin listed as home medication, d/c'ed as the indication 
for this is unclear, if needed for prophylaxis discuss with PCP 
- follow up pleural cytology, most likely malignant effusion 
given atypical cells 
- continue to discuss goals of care with family as patient 
remains full code and may benefit from PleurX in the future 

>30 minutes spent on this discharge 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin EC 81 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. melatonin 3 mg oral DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Cephalexin 500 mg PO Q8H 
6. Senna 8.6 mg PO QHS 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Furosemide 40 mg PO DAILY  
3.  melatonin 3 mg oral DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Senna 8.6 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Exudative pleural effusion

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
- You had some difficulty breathing at home

WHAT WAS DONE WHILE I WAS HERE?
- You had an ___ of your chest which showed that fluid had 
gathered around your lung
- Out lung doctors saw ___ who drained some of that fluid with a 
needle
- The fluid was sent to our lab to try to determine the cause of 
this fluid
- These studies are still pending, and you should follow up the 
results with your primary care doctor

WHAT SHOULD I DO NOW?
-You should take your medications as instructed
-You should go to your doctor's appointments as below

We wish you the best!
-Your ___ Care Team
 
Followup Instructions:
___